US08466289B2
Synthesis of Intermediate 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonyl chloride (I-15f)
Using the same reaction conditions, procedure and work up as described for the preparation of Intermediate I-25c (below), potassium 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate (0.5 g, 1.168 mmol) was reacted with POCl3 (0.22 mL, 2.336 mmol), diisopropyl ethyl amine (0.4 mL, 2.336 mmol) and DCM (20 mL) to afford the crude product. Purification by column chromatography on silica gel (8% ethyl acetate in hexane) afforded 0.32 g of the product (68% yield).

reactant | potassium 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate | 1.168 mmol, 0.5 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)[O-].[K+]
reactant | POCl3 | 2.336 mmol, 0.22 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diisopropyl ethyl amine | 2.336 mmol, 0.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonyl chloride | 0.32 g, 68% yield | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)Cl | C21H25ClO4S
